US05344843
A solution of 4-[[[2-(2-naphthalenyloxy)ethyl]amino]carbonyl]-alpha-oxobenzeneacetic acid methyl ester (0.35 g) in methanol (5 mL) and tetrahydrofuran (5 mL) was treated with 1N sodium hydroxide (1 mL) and after 5 minutes the mixture was concentrated to remove the organic solvents. The residue was acidified with excess hydrochloric acid and extracted with dichloromethane containing a little tetrahydrofuran. The organic layer was washed with water, dried (Na2SO4), filtered and evaporated to give crude product. Crystallization from acetone-hexane provided 0.275 g of purified 4-[[[2-(2-naphthalenyloxy)ethyl]amino]carbonyl]-alpha-oxobenzeneacetic acid as a colorless solid, mp 173°-175° C.

reactant | 4-[[[2-(2-naphthalenyloxy)ethyl]amino]carbonyl]-alpha-oxobenzeneacetic acid methyl ester | 0.35 g | COC(C(C1=CC=C(C=C1)C(=O)NCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C22H19NO5
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[[[2-(2-naphthalenyloxy)ethyl]amino]carbonyl]-alpha-oxobenzeneacetic acid | 0.275 g | C1=C(C=CC2=CC=CC=C12)OCCNC(=O)C1=CC=C(C=C1)C(C(=O)O)=O | C21H17NO5
